US07666888B2
2-[1-({5-[4-(Trifluoromethyl)phenyl]isoxazol-4-yl}carbonyl)piperidin-3-yl]propan-2-ol
5-[4-(Trifluoromethyl)phenyl]isoxazole-4-carboxylic acid (30 mg, 0.12 mmol) was dissolved in acetonitrile (1.5 mL) followed by the addition of o-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) (52 mg, 0.16 mmol), pyridine (60 μL, 0.72 mmol) and 3-(1-methyl-1-hydroxyethyl)piperidine hydrochloride (25 mg, 0.14 mmol), and stirred at 60° C. for 30 min. The residue was purified on reversed phase HPLC to yield the title compound (23 mg). HRMS (ESI, pos. ion) m/z calcd for C19H21F3N2O3: 382.1504, found 382.1502.

reactant | 5-[4-(Trifluoromethyl)phenyl]isoxazole-4-carboxylic acid | 0.12 mmol, 30 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | o-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.16 mmol, 52 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
reactant | pyridine | 0.72 mmol, 60 μL | N1=CC=CC=C1 | C5H5N
reactant | 3-(1-methyl-1-hydroxyethyl)piperidine hydrochloride | 0.14 mmol, 25 mg | Cl.CC(C)(O)C1CNCCC1
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 2-[1-({5-[4-(Trifluoromethyl)phenyl]isoxazol-4-yl}carbonyl)piperidin-3-yl]propan-2-ol | 23 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CCC1)C(C)(C)O)(F)F | C19H21F3N2O3
